US03966736
6,11-Dihydro-8,9-dibromo-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one (0.1 mol) in 300 ml. of water-free dioxane is dissolved by heating to reflux. To the boiling solution is added, dropwise over 30 minutes, a solution of 15. g. (0.14 mol) of chloroacetyl chloride, dissolved in 40 ml. of water-free dioxane, and simultaneously 14.4 (0.14 mol) of triethylamine, dissolved in 30 ml. of water-free dioxane. The mixture is refluxed for 8 hours and then filtered while hot. The filtrate is evaporated in vacuo, and the resulting residue is recrystallized from acetonitrile to give 11-chloroacetyl-8,9-dibromo-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one.

reactant | 6,11-Dihydro-8,9-dibromo-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 0.1 mol | BrC=1C(=CC2=C(NC(C3=C(N2)N=CC=C3)=O)C1)Br | C12H7Br2N3O
reactant | chloroacetyl chloride | 0.14 mol | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 11-chloroacetyl-8,9-dibromo-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | ClCC(=O)N1C2=C(C(NC3=C1C=C(C(=C3)Br)Br)=O)C=CC=N2 | C14H8Br2ClN3O2
